US04414390
8-Chloro-6-(α-bromopropionyl)-3,4-dihydrocarbostyril (4 g), 2-aminopyridine (3.57 g) and acetonitrile (20 ml) were refluxed for 3 hours. The reaction mixture was concentrated to dryness and the residue (oily product) was washed with water. Then, the residue was dissolved in acetone and 48% hydrobromic acid was added to the solution to adjust pH to about 1 and crystals which formed were crystallized by filtration. The crude crystals thus obtained were recrystallized from water to give 2.74 g of 8-chloro-6-(3-methylimidazo[1,2-a]-pyridine-2-yl)-3,4-dihydrocarbostyril monohydrobromide hemihydrate.

reactant | 8-Chloro-6-(α-bromopropionyl)-3,4-dihydrocarbostyril | 4 g | ClC=1C=C(C=C2CCC(NC12)=O)C(C(C)Br)=O | C12H11BrClNO2
reactant | 2-aminopyridine | 3.57 g | NC1=NC=CC=C1 | C5H6N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 8-chloro-6-(3-methylimidazo[1,2-a]-pyridine-2-yl)-3,4-dihydrocarbostyril monohydrobromide hemihydrate | 2.74 g | O.Br.ClC=1C=C(C=C2CCC(NC12)=O)C=1N=C2N(C=CC=C2)C1C.ClC=1C=C(C=C2CCC(NC12)=O)C=1N=C2N(C=CC=C2)C1C.Br | InChI=1S/2C17H14ClN3O.2BrH.H2O/c2*1-10-16(19-14-4-2-3-7-21(10)14)12-8-11-5-6-15(22)20-17(11)13(18)9-12;;;/h2*2-4,7-9H,5-6H2,1H3,(H,20,22);2*1H;1H2
